US04472433
Preparation of ethyl 2-[2-nitro-3-(3,4-dimethylphenoxy)phenyl]acetate
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g), 3,4-dimethylphenol (5.5 g.), anhydrous potassium carbonate (8.5 g.) and cupric oxide (1 g.) was treated in a similar manner to the above to give the captioned compound (3.65 g.). bp 190° to 196° C./0.8 mmHg.

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 3,4-dimethylphenol | 5.5 g | CC=1C=C(C=CC1C)O | C8H10O
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
product | ethyl 2-[2-nitro-3-(3,4-dimethylphenoxy)phenyl]acetate | [N+](=O)([O-])C1=C(C=CC=C1OC1=CC(=C(C=C1)C)C)CC(=O)OCC | C18H19NO5
